US08071768B2
b. 4-(6,7-Dimethoxy-quinazolin-4-yl)-piperidine-1-carboxylic acid [4-(2-methoxy-ethoxy)-phenyl]-amide
A mixture of 4-(6,7-dimethoxy-quinazolin-4-yl)-piperidine-1-carbonyl chloride (18 mg, 0.0536 mmol), as prepared in Example 3a, 4-(2-methoxy-ethoxy)-phenylamine (8.9 mg, 0.0533 mmol), as prepared in the previous step, and triethylamine (14 μL, 0.1 mmol) was stirred in DMSO (0.5 mL) at 50° C. overnight. The reaction was then cooled to RT, partitioned between EtOAc (10 mL) and H2O (10 mL). The organic phase was dried over Na2SO4 and concentrated in vacuo. Purification by prep tlc (1:9 MeOH/DCM) afforded the title compound as a brown solid (5.7 mg, 23%). 1H NMR (300 MHz, CDCl3) δ 9.16 (s, 1H), 7.28-7.25 (m, 4H), 6.89 (m, 2H), 6.33 (br s, NH), 4.29-4.24 (m, 2H), 4.12-4.07 (m, 8H), 3.74 (m, 2H), 3.59 (m, 1H), 3.45 (s, 3H), 3.17 (m, 2H), 2.22-2.08 (m, 2H), 2.05-1.97 (m, 2H); LC/MS (ESI): calcd mass 466.2, found 467.4 [M+1]+.

reactant | 4-(6,7-dimethoxy-quinazolin-4-yl)-piperidine-1-carbonyl chloride | 0.0536 mmol, 18 mg | COC=1C=C2C(=NC=NC2=CC1OC)C1CCN(CC1)C(=O)Cl | C16H18ClN3O3
reactant | 4-(2-methoxy-ethoxy)-phenylamine | 0.0533 mmol, 8.9 mg | COCCOC1=CC=C(C=C1)N | C9H13NO2
reactant | triethylamine | 0.1 mmol, 14 μL | C(C)N(CC)CC | C6H15N
solvent | DMSO | 0.5 mL | CS(=O)C | C2H6OS
product | 4-(6,7-Dimethoxy-quinazolin-4-yl)-piperidine-1-carboxylic acid [4-(2-methoxy-ethoxy)-phenyl]-amide | 5.7 mg, 23% | COCCOC1=CC=C(C=C1)NC(=O)N1CCC(CC1)C1=NC=NC2=CC(=C(C=C12)OC)OC | C25H30N4O5
